US07915304B2
Step C: 1-(3-chlorophenyl)-(3-methylphenyl)-pyrrole-2,5-dione
To a stirred solution of (3-methylphenyl)-furan-2,5-dione (265 mg, 1.41 mmol) in acetic acid (5 ml) at room temperature was added 3-chloroaniline (149 μl, 1.41 mmol). The reaction mixture was heated to reflux and stirred for 3 hours. The reaction mixture was cooled to room temperature. The precipitate formed was filtered, re-suspended in water (15 ml) and recovered by filtration. The precipitate was washed with water (10 ml), heptane (10 ml) and dried under air suction followed by high vacuum.

reactant | (3-methylphenyl)-furan-2,5-dione | 1.41 mmol, 265 mg | CC=1C=C(C=CC1)C=1C(OC(C1)=O)=O | C11H8O3
reactant | 3-chloroaniline | 1.41 mmol, 149 μl | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 1-(3-chlorophenyl)-(3-methylphenyl)-pyrrole-2,5-dione | ClC=1C=C(C=CC1)N1C(C(=CC1=O)C1=CC(=CC=C1)C)=O | C17H12ClNO2
